US06127354
3-(1-(t-Butyloxycarbonylamino)ethyl)benzoic acid (217 mg, 0.82 mmol) was dissolved in dichloromethane (5 ml) and N,N-dimethylformamide (3 ml). 1-Hydroxy-7-azabenzotriazole (111 mg, 0.82 mmol) was added. The solution was cooled to 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (157 mg, 0.82 mmol) was added. A solution of (2R)-N-Methyl-2-(methylamino)-3-(2-naphthyl)-N-(2-(2-thienyl)ethyl)propionamide (288 mg, 0.82 mmol) in dichloromethane (3 ml) was added. Ethyldiisopropylamine (0.14 ml, 0.82 mmol) was added. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (80 ml) and washed with 10% sodium hydrogen sulfate solution (50 ml). The aqueous phase was extracted with ethyl acetate (2×40 ml). The combined organic layers were washed with sa sodium hydrogen carbonate solution (50 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silcia (110 g), using ethyl acetate/heptane 1:1 as eluent, to give 479 mg of (1-(3-(N-methyl-N-((1R)-1-(N-methyl-N-(2-(2-thienyl)ethyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamoyl)phenyl)ethyl)carbamic acid tert-butyl ester.

reactant | 3-(1-(t-Butyloxycarbonylamino)ethyl)benzoic acid | 0.82 mmol, 217 mg | C(C)(C)(C)OC(=O)NC(C)C=1C=C(C(=O)O)C=CC1 | C14H19NO4
reactant | 1-Hydroxy-7-azabenzotriazole | 0.82 mmol, 111 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 0.82 mmol, 157 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-N-Methyl-2-(methylamino)-3-(2-naphthyl)-N-(2-(2-thienyl)ethyl)propionamide | 0.82 mmol, 288 mg | CN(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)CCC=1SC=CC1 | C21H24N2OS
reactant | Ethyldiisopropylamine | 0.82 mmol, 0.14 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | (1-(3-(N-methyl-N-((1R)-1-(N-methyl-N-(2-(2-thienyl)ethyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamoyl)phenyl)ethyl)carbamic acid tert-butyl ester | 479 mg | C(C)(C)(C)OC(NC(C)C1=CC(=CC=C1)C(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N(CCC=1SC=CC1)C)=O)C)=O)=O | C35H41N3O4S
